US05352784
Using the general method of Example 1 Part D, a mixture of methyl 3-oxo-3-[(2-ethoxycarbonylcyclohexen-1-yl)amino]propanoate and methyl 3-oxo-3-[(2-methoxycarbonylcyclohexen-1-yl)amino]propanoate (43.2 g, 0.16 mole) was cyclized to provide 35.5 g of methyl 1,2,5,6,7,8-hexahydro-4-hydroxy-2-oxoquinoline-3-carboxylate as an off white solid.

reactant | methyl 3-oxo-3-[(2-ethoxycarbonylcyclohexen-1-yl)amino]propanoate | O=C(CC(=O)OC)NC1=C(CCCC1)C(=O)OCC | C13H19NO5
reactant | methyl 3-oxo-3-[(2-methoxycarbonylcyclohexen-1-yl)amino]propanoate | 0.16 mole, 43.2 g | O=C(CC(=O)OC)NC1=C(CCCC1)C(=O)OC | C12H17NO5
product | methyl 1,2,5,6,7,8-hexahydro-4-hydroxy-2-oxoquinoline-3-carboxylate | 35.5 g | OC1=C(C(NC=2CCCCC12)=O)C(=O)OC | C11H13NO4
